US07541341B2
To a solution of 2-[4-(2-benzyloxyethyl)benzyl]phenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside (0.18 g) in ethyl acetate (4 mL) and ethanol (1 mL) was added 10% palladium-carbon powder (0.072 g), and the mixture was stirred under a hydrogen atmosphere at room temperature for 18 hours. Insoluble materials were removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1-10/1) to give 2-[4-(2-hydroxyethyl)benzyl]phenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside (0.11 g).

reactant | 2-[4-(2-benzyloxyethyl)benzyl]phenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside | 0.18 g | C(C)OC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)CCOCC2=CC=CC=C2)O1)O)O)O | C31H36O9
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 1 mL | C(C)O | C2H6O
catalyst | palladium-carbon | 0.072 g | [C].[Pd]
product | 2-[4-(2-hydroxyethyl)benzyl]phenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside | 0.11 g | C(C)OC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)CCO)O1)O)O)O | C24H30O9
